US08580815B2
Preparation of (5-(2-bromobenzamido)-1H-pyrrolo[2,3-b]pyridin-2-yl)methyl quinoxaline-6-carboxylate (ND0022)
A flask is charged successively with 50 mg (0.14 mmol) of 2-bromo-N-(2-(hydroxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzamide AT2-2BF2 (example 16), 5 mL of dichloromethane, 30 mg (0.15 mmol) of 6-quinoxalinecarbonyl chloride and 30 μL (0.22 mmol) of triethylamine. The solution is stirred at room temperature for 18 hours and then diluted in 60 mL of ethyl acetate, washed with 10 mL of saturated solution of sodium bicarbonate, 10 mL of water, and 10 mL of saturated solution of sodium chloride. The organic phase is then dried over sodium sulphate and evaporated under reduced pressure. The raw product is then purified by silica gel chromatography (ethyl acetate/petroleum ether eluent). 14 mg of a yellow solid is obtained (24%).

reactant | 2-bromo-N-(2-(hydroxymethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzamide | 0.14 mmol, 50 mg | BrC1=C(C(=O)NC=2C=C3C(=NC2)NC(=C3)CO)C=CC=C1 | C15H12BrN3O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | 6-quinoxalinecarbonyl chloride | 0.15 mmol, 30 mg | N1=CC=NC2=CC(=CC=C12)C(=O)Cl | C9H5ClN2O
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (5-(2-bromobenzamido)-1H-pyrrolo[2,3-b]pyridin-2-yl)methyl quinoxaline-6-carboxylate | 14 mg | N1=CC=NC2=CC(=CC=C12)C(=O)OCC1=CC=2C(=NC=C(C2)NC(C2=C(C=CC=C2)Br)=O)N1 | C24H16BrN5O3
